US05821247
Reductive amination of 6-amino-5-formyl-3-methyl-1-phenyl-2,4 (1H, 3H)-pyrimidinedione with N-butylamine was performed in substantially the same manner as Example 18 to thereby give an intermediate, 6-amino-5-(N-butylaminomethyl)-3-methyl-1-phenyl-2,4 (1H, 3H)-pyrimidinedione. The intermediate was reacted with 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid by a conventional condensation method to give the title compound (yield 36%).

reactant | 6-amino-5-formyl-3-methyl-1-phenyl-2,4 (1H, 3H)-pyrimidinedione | NC1=C(C(N(C(N1C1=CC=CC=C1)=O)C)=O)C=O | C12H11N3O3
reactant | N-butylamine | C(CCC)N | C4H11N
product | 6-amino-5-(N-butylaminomethyl)-3-methyl-1-phenyl-2,4 (1H, 3H)-pyrimidinedione | NC1=C(C(N(C(N1C1=CC=CC=C1)=O)C)=O)CNCCCC | C16H22N4O2
